US07091353B2
3-Pentylamino-phthalic acid dimethyl ester
To a stirred solution of 3-amino-phthalic acid dimethyl ester (3.14 g, 15 mmol) in methylene chloride (50 ml) under a nitrogen atmosphere were added valeraldehyde (2.0 ml, 18.75 mmol) and acetic acid (5.18 ml, 90 mmol). The mixture was stirred for 5 minutes followed by addition of sodium triacetoxyborohydride (6.36 g, 30 mmol). The reaction was stirred for 30 minutes, diluted with methylene chloride (50 ml), washed with water (2×100 ml), saturated aqueous sodium bicarbonate (2×100 ml), brine (100 ml), and dried (MgSO4). The solvent was evaporated in vacuo to give 4.19 g of product (100%) that used without further purification. 1H NMR (DMSO-d6) d 7.31 (t, J=7.9 Hz, 1H), 6.81–6.75 (m, 2H), 3.85 (s, 3H), 3.82 (s, 3H), 3.15 (bs, 2H), 1.68–1.60 (m, 2H), 1.45–1.32 (m, 4H), 0.89 (t, J=6.9 Hz, 3H).

reactant | 3-amino-phthalic acid dimethyl ester | 15 mmol, 3.14 g | COC(C=1C(C(=O)OC)=C(C=CC1)N)=O | C10H11NO4
reactant | valeraldehyde | 18.75 mmol, 2.0 ml | C(CCCC)=O | C5H10O
reactant | acetic acid | 90 mmol, 5.18 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 30 mmol, 6.36 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-Pentylamino-phthalic acid dimethyl ester | 4.19 g, 100% | COC(C=1C(C(=O)OC)=C(C=CC1)NCCCCC)=O | C15H21NO4
